US06930109B2
(2R)-[8-But-3-enyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-chroman-7-yl]-carbamic acid tert-butyl ester
To a solution of (2R)-[2-(tert-butyl-dimethyl-silanyloxymethyl)-8-methyl-chroman-7-yl]-carbamic acid tert-butyl ester (0.41 g, 1 mmole) in anhydrous tetrahydrofuran (20 mL) containing 10 mg of 1,10-phenanthroline at −40° C. was slowly added 2.4 equivalents of 1.3 M s-butyl lithium. After 1 equivalent of s-butyl lithium had been added, the deep red color of the indicator became apparent. The reaction was allowed to stand for 1.5 hours, after which allyl bromide (0.24 g, 2.0 mmole) was added. The reaction was allowed to stand for an additional 4 hours and then was quenched with water (4 mL). The reaction mixture was next diluted with ether (250 mL) and washed with saturated aqueous sodium bicarbonate (50 mL). The organic layer was separated and the solvent removed under vacuum. Column chromatography on silica gel (5% methylene chloride/hexane) afforded 0.37 g (75%) of the title compound as an oil, [α]25D=−32.42° (3.7, THF).

reactant | (2R)-[2-(tert-butyl-dimethyl-silanyloxymethyl)-8-methyl-chroman-7-yl]-carbamic acid tert-butyl ester | 1 mmole, 0.41 g | C(C)(C)(C)OC(NC1=CC=C2CC[C@@H](OC2=C1C)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H37NO4Si
reactant | s-butyl lithium | 1.3 M, 2.4 equivalents | C(C)(CC)[Li]
reactant | s-butyl lithium | 1 equivalent | C(C)(CC)[Li]
reactant | allyl bromide | 2.0 mmole, 0.24 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | 1,10-phenanthroline | 10 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
product | (2R)-[8-But-3-enyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-chroman-7-yl]-carbamic acid tert-butyl ester | 0.37 g, 75% | C(C)(C)(C)OC(NC1=CC=C2CC[C@@H](OC2=C1CCC=C)C(O[SiH2]C(C)(C)C)(C)C)=O | C25H41NO4Si
